Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[O:3],1.4338704724
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4][H:5].[O:1][O:2][C:3][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],7.25010808663
[C:1].[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-4.994520929619999
[H:1][C:2]([H:3])=[C:4][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.68419265846
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:7],1.66908647305
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[O:1]=[c:2]1[c:3]([H:4])[c:5]([H:6])[c:7]1=[O:8],-0.153518839999
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],3.43917126994
[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C@@:5]([H:6])([O:7][H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:4],1.90304537825
[C:7][H:8].[O:1][O:2][C:3]([H:4])[C:5]#[C:6]>>[O:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][H:8],-8.09519122153
[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:6].[O:1]=[C:2]([C:3]#[C:4][H:5])[O:7][C:8]([H:9])([H:10])[H:11],2.13634969228
[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:5]([H:6])[O:7][H:8].[O:1][C:2]#[C:3][H:4],4.20043636009
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1[O:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],2.29092743241
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-2.47215291278
[C:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][H:9]>>[C:1]=[O:2].[C:3]([H:4])=[C:5]([H:6])[O:7][C:8][H:9],-1.22291622073
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1].[O:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.17281365976
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-0.98144104627
[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7](\[H:8])[C:9]=[C:10]([H:11])[H:12],-3.35231100124
[H:12].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])[H:11]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12],-4.66894722185
[H:1][C:2]/[C:3](=[C:4](/[O:5][H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:11]([H:12])([H:13])[H:14],1.26826059945
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13],3.65797901802
[C:1]#[C:2][H:3].[C:4](=[O:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2]([H:3])[C:4]([O:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],0.1681497177299999
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])[C:7]#[C:8][H:9]>>[C:1]#[C:2][C:5]([H:6])[C:7]#[C:8][H:9].[O:3][H:4],3.68486353062
[C:1].[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3][O:4][C:5]([H:6])([H:7])[O:8][H:9],-6.691431284119999
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8],4.06599774162
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[O:1]=[O:2]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10],-2.09349256
[C:5](=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11])\[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4]/[C:5](=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.06257224576
[H:9].[O:1][O:2][C:3]([H:4])[C:5][C:6]#[C:7][H:8]>>[O:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])[H:9],-4.33740426559
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])[H:6].[O:7]=[C:8]([H:9])[O:10][H:11],-0.7104366611290001
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.93596034061
[H:1][C:2][O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.62693446216
